US07105567B2
By the reaction and treatment in the same manner as in Example 2 using benzylphenylamine (1.3 g) and 2,6-diisopropylphenyl isocyanate (1.7 mL) as starting materials, N-benzyl-N′-(2,6-diisopropylphenyl)-N-phenylurea (1.8 g) was obtained.

reactant | benzylphenylamine | 1.3 g | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | 2,6-diisopropylphenyl isocyanate | 1.7 mL | C(C)(C)C1=C(C(=CC=C1)C(C)C)N=C=O | C13H17NO
product | N-benzyl-N′-(2,6-diisopropylphenyl)-N-phenylurea | 1.8 g | C(C1=CC=CC=C1)N(C(=O)NC1=C(C=CC=C1C(C)C)C(C)C)C1=CC=CC=C1 | C26H30N2O
